* source G3_LAB2_ELVIS_SQ_CASE4
V_V3         N05141 0  
+PULSE 5V 0V 0 0.2us 0.2us 0.8us 2us
M_M2         N05127 N05141 N05249 0 MbreakN1           
M_M4         N05127 N05141 N04979 N04979 MbreakP1           
V_V2         N05031 0  
+PULSE 5V 0V 0 0.1us 0.1us 0.4us 1us
V_V1         N04979 0 5Vdc
M_M1         N05249 N05031 0 0 MbreakN1           
M_M3         N05127 N05031 N04979 N04979 MbreakP1           
